US05578620
3-(8-phenyloctyloxy)-2-hydroxypropylamine
A procedure similar to that described in Preparation 13 was repeated, except that 2.6 g of 3-(8-phenyloctyloxy)-2-hydroxypropylazide (prepared as described in Preparation 65), 0.65 g of lithium aluminum hydride and 80 ml of anhydrous tetrahydrofuran were used, to give 2.11 g of the title compound, melting at 50° C. to 54° C.

reactant | 3-(8-phenyloctyloxy)-2-hydroxypropylazide | 2.6 g | C1(=CC=CC=C1)CCCCCCCCOCC(CN=[N+]=[N-])O | C17H27N3O2
reactant | lithium aluminum hydride | 0.65 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | 3-(8-phenyloctyloxy)-2-hydroxypropylamine | 2.11 g | C1(=CC=CC=C1)CCCCCCCCOCC(CN)O | C17H29NO2
